US05604181
Ethyl 3-methyl-2-(4,6-dimethoxypyrimidin-2-yl)-2-(2-chlorobenzamido)butanoate
2-Chlorobenzoyl chloride (0.35 g) in ethyl acetate (3 ml) was added to a stirred solution of ethyl 2-amino-3-methyl-2-(4,6-dimethoxypyrimidin-2-yl)butanoate (0.566 g) and ethyl diisopropylamine (0.258 g) in ethyl acetate (15 ml). The mixture was stirred at room temperature for 2 hours, filtered, and the filtrate was washed with water, dried and evaporated to dryness under vacuum. The residual solid was triturated with 60°-80° petroleum ether to give 0.4 g of the desired product as a white solid, mp 94°-95° C.

reactant | 2-Chlorobenzoyl chloride | 0.35 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | ethyl 2-amino-3-methyl-2-(4,6-dimethoxypyrimidin-2-yl)butanoate | 0.566 g | NC(C(=O)OCC)(C(C)C)C1=NC(=CC(=N1)OC)OC | C13H21N3O4
reactant | ethyl diisopropylamine | 0.258 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-methyl-2-(4,6-dimethoxypyrimidin-2-yl)-2-(2-chlorobenzamido)butanoate | 0.4 g | CC(C(C(=O)OCC)(NC(C1=C(C=CC=C1)Cl)=O)C1=NC(=CC(=N1)OC)OC)C | C20H24ClN3O5
